US06017924
In a 250-mL r.b., a solution of 3-ethyl-1-pentyn-3-ol (11.5 g, 102 mmol) in pyridine (10.2 mL) was treated sequentially with Et3N (15.0 mL, 0.107 mol, 1.4 equiv), acetic anhydride (13.5 mL, 143 mmol, 1.4 equiv), and DMAP (1.25 g, 10.2 mmol, 10.0 mol %). The reaction mixture was stirred at rt for 5 d, then treated with MeOH (5 mL) and stirred for 1 h. The mixture was partitioned between ether (100 mL) and water (100 mL), and the aqueous layer was extracted with ether (100 mL). The organic layers were washed sequentially with 2 N NaHSO4 and brine (50 mL), dried (MgSO4), filtered, and concentrated. Distillation under reduced pressure afforded 11.8 g (58.8%) 3-ethylpent-1-yn-3-yl acetate, a colorless oil, bp 38-39° C. @ 15 mm Hg. Data for 3-ethylpent-1-yn-3-yl acetate: 1H NMR (400 MHz, CDCl3) 2.54 (s, 1H), 2.03 (s, 3H), 1.96-2.08 (m, 2H), 1.84-1.95 (m, 2H), 0.97 (t, J=7.4, 6H).

reactant | 3-ethyl-1-pentyn-3-ol | 102 mmol, 11.5 g | C(C)C(C#C)(CC)O | C7H12O
reactant | Et3N | 0.107 mol, 15.0 mL, 1.4 equiv | CCN(CC)CC | C6H15N
reactant | acetic anhydride | 143 mmol, 13.5 mL, 1.4 equiv | C(C)(=O)OC(C)=O | C4H6O3
reactant | MeOH | 5 mL | CO | CH4O
solvent | pyridine | 10.2 mL | N1=CC=CC=C1 | C5H5N
catalyst | DMAP | 10.2 mmol, 1.25 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 3-ethylpent-1-yn-3-yl acetate | 11.8 g, 58.8% | C(C)(=O)OC(C#C)(CC)CC | C9H14O2
